US08022062B2
(±)-5-(2,2,2-Trifluoro-1-methyl-ethoxy)-pyridine-2-carbonitrile:
Add 1,1,1-trifluoro-2-propanol (971 mg, 8.5 mmol) slowly to a slurry of sodium hydride (205 mg, 60% mineral oil, washed with hexane) in HMPA (8 mL) under nitrogen at 0° C. Allow the slurry to warm to ambient temperature and stir for 5 min. Add 5-chloro-pyridine-2-carbonitrile (590 mg, 4.2 mmol), then heat the mixture at 90° C. for 4 h. Adjust the mixture to pH 9 with sodium carbonate then extract with diethyl ether (2×50 mL). Dry the combined organic extracts over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (95/5 to 80/20) to obtain the desired intermediate (818 mg, 89%). GC-MS m/z: 216 (M+).

reactant | 1,1,1-trifluoro-2-propanol | 8.5 mmol, 971 mg | FC(C(C)O)(F)F | C3H5F3O
reactant | sodium hydride | 205 mg | [H-].[Na+]
reactant | 5-chloro-pyridine-2-carbonitrile | 4.2 mmol, 590 mg | ClC=1C=CC(=NC1)C#N | C6H3ClN2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | HMPA | 8 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | (±)-5-(2,2,2-Trifluoro-1-methyl-ethoxy)-pyridine-2-carbonitrile | 818 mg, 89% | FC(C(OC=1C=CC(=NC1)C#N)C)(F)F | C9H7F3N2O
